US05304532
(i) Preparation of 2-(3-trifluoromethylphenoxy)-5-fluorobenzonitrile
To a solution of 3-trifluoromethylphenol (29 g, 0.18 mol) dissolved in dimethylformamide (100 ml) was added finely-powdered potassium hydroxide (15 g, 0.19 mol). The reaction mixture was heated to approximately 60° C., with stirring, for one hour after which time 2,5-difluorobenzonitrile (25 g, 0.19 mol) was added and the temperature increased to 110° C. After approximately half an hour, the reaction mixture was allowed to cool and excess dimethylformamide was removed in vacuo before 500 ml of a 50:50 mixture of water and trichloromethane was added. The organic layer was separated, washed and dried and the residue purified by chromatography using a silica column with trichloromethane as eluant, followed by distillation and recrystallisation to yield the title compound as a solid.

reactant | 3-trifluoromethylphenol | 0.18 mol, 29 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium hydroxide | 0.19 mol, 15 g | [OH-].[K+]
reactant | 2,5-difluorobenzonitrile | 0.19 mol, 25 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3-trifluoromethylphenoxy)-5-fluorobenzonitrile | FC(C=1C=C(OC2=C(C#N)C=C(C=C2)F)C=CC1)(F)F | C14H7F4NO
